US07449466B2
A reaction vessel was charged with methoxymethyltriphenyl-phosphonium chloride (1.114 g), the atomosphere indide the vessel was substituted with nitrogen, and anhydrous tetrahydrofuran (2 mL) was added, followed by further dropwise addition of 1.57 M n-butyl lithium-in-hexane solution (2 mL) at room temperature and thereafter 10 minutes' stirring at room temperature. To the reaction mixture a mixture of 1-(2,5-difluoro-4-methoxyphenyl)piperidin-4-one (676 mg) and anhydrous tetrahydrofuran (0.5 mL) was added dropwise, followed by 30 minutes' stirring at room temperature. To the reaction mixture water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline solution and dried over anhydrous sodium sulfate. Distilling the solvent off, the crude product as obtained was purified on silica gel column chromatography (eluent, hexane: ethyl acetate=10:1) to provide 1-(2,5-difluoro-4-methoxyphenyl)-4-methoxymethylenepiperidine (257 mg).

reactant | methoxymethyltriphenyl-phosphonium chloride | 1.114 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 1-(2,5-difluoro-4-methoxyphenyl)piperidin-4-one | 676 mg | FC1=C(C=C(C(=C1)OC)F)N1CCC(CC1)=O | C12H13F2NO2
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(2,5-difluoro-4-methoxyphenyl)-4-methoxymethylenepiperidine | 257 mg | FC1=C(C=C(C(=C1)OC)F)N1CCC(CC1)=COC | C14H17F2NO2
